US05430153
3 -Acetyl- 8- fl uo ro-4- (2 -methyl cyclohexylamino )-2-quinolinone (256)
3-Acetyl-8-fiuoro-4-methylsulfoxy-2-quinolinone (2.67g, 0.01 mol) and 2methylcyclohexylamine(1.13g, 0.01 mol) were used, but the reaction was carried out as the above process of example 37 to obtain the desired product (2.1g, yield: 66%).

reactant | 3-Acetyl-8-fiuoro-4-methylsulfoxy-2-quinolinone | 0.01 mol, 2.67g | C(C)(=O)C=1C(NC2=C(C=CC(=C2C1C)OS(=O)(=O)O)F)=O | C12H10FNO6S
reactant | 2methylcyclohexylamine | 0.01 mol, 1.13g | CC1C(CCCC1)N | C7H15N
product | 3 -Acetyl- 8- fl uo ro-4- (2 -methyl cyclohexylamino )-2-quinolinone | 2.1g, yield: 66% | C(C)(=O)C=1C(NC2=C(C=CC=C2C1NC1C(CCCC1)C)F)=O | C18H21FN2O2
